US06175007B1
2,4-Dichloro-5-(1,3,4,5,6,7-hexahydro-1,3-dioxo-2H-isoindol-2-yl) benzaldehyde (O-methyl)oxime
18 g (82 mmol) of 5-amino-2,4-dichlorobenzaldehyde (O-methyl)oxime were added to a solution of 12.5 g (82 mmol) of 3,4,5,6-tetrahydrophthalic anhydride in 300 ml of acetic acid, whereupon the mixture was stirred for 15 hours at reflux temperature. The reaction mixture was subsequently poured into 1 l water. The product was then extracted with 300 ml of methyl tert-butyl ether. The extract was washed with saturated aqueous sodium hydrogen carbonate solution, dried over magnesium sulfate and finally concentrated. The residue was purified by means of silica gel chromatography (eluent: hexane/ethyl acetate=4:1). Yield: 20.9 g; m.p.: 122-124° C.

reactant | 5-amino-2,4-dichlorobenzaldehyde (O-methyl)oxime | 82 mmol, 18 g | CON=CC1=C(C=C(C(=C1)N)Cl)Cl | C8H8Cl2N2O
reactant | 3,4,5,6-tetrahydrophthalic anhydride | 82 mmol, 12.5 g | C1(C2=C(C(=O)O1)CCCC2)=O | C8H8O3
reactant | water | 1 l | O | H2O
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 2,4-Dichloro-5-(1,3,4,5,6,7-hexahydro-1,3-dioxo-2H-isoindol-2-yl) benzaldehyde (O-methyl)oxime | CON=CC1=C(C=C(C(=C1)N1C(C=2CCCCC2C1=O)=O)Cl)Cl | C16H14Cl2N2O3
